US06008230
A mixture of 8-nitro-4-(trifluoromethanesulfonyloxy)quinoline (6.0 g), tri-n-butyl(vinyl)tin (6.49 g), tetrakis(triphenylphosphine)palladium(0) (1.08 g) and lithium chloride (2.37 g) in dioxane (120 ml) was refluxed for 1.5 hours. The mixture was concentrated in vacuo, and ethyl acetate (200 ml) was added to the residue. The mixture was stirred for 1 hour, and insoluble material was filtered off. The residue was purified by flash chromatography (ethyl acetate-n-hexane) to give 8-nitro-4-vinylquinoline (2.39 g).

reactant | 8-nitro-4-(trifluoromethanesulfonyloxy)quinoline | 6.0 g | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OS(=O)(=O)C(F)(F)F | C10H5F3N2O5S
reactant | tri-n-butyl(vinyl)tin | 6.49 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 2.37 g | [Cl-].[Li+]
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.08 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-nitro-4-vinylquinoline | 2.39 g | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)C=C | C11H8N2O2
